US04822464
This comparative example illustrates the Tg enhancement provided by a relatively bulky linking compound that has been referred to in several patents relating to ED paints. 72.7 Parts EPON 829 and 14.8 parts 1,5-dihydroxynaphthalene were combined neat and reacted overnight at 158° C., then diluted with 28.9 parts mixed xylenes. The resulting dark brown, viscous reaction product solution contained 72.5% solids and had an epoxy equivalent weight of 423 (perchloric acid-tetrabutyl ammonium iodide titration). 19.06 Parts of the reaction product solution were combined with 0.30 parts piperidine and 54.6 parts of xylene:methylene chloride solution, then analyzed using dynamic mechanical analysis. A measured Tg of 134° C. was obtained. This Tg value is 20° C. greater than that obtained when bisphenol A is substituted for such linking compound.

reactant | EPON 829 | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl
reactant | 1,5-dihydroxynaphthalene | OC1=CC=CC2=C(C=CC=C12)O | C10H8O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
